US07019136B2
A suspension of the product of Example 13, 3-allyl-8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-1-methyl-3,7-dihydro-purine-2,6-dione hydrochloride salt (0.760 g, 1.87 mmol), 9-borabicyclo[2.2.0 ]nonane (0.5M THF solution, 18.7 ml, 9.35 mmol) and diisopropylethylarine (0.33 ml, 1.89 mmol) in THF (9 ml) is heated to reflux for 2.5 hours. Sodium hydroxide (4M aqueous solution, 6 ml) and hydrogen peroxide (27.5%, 3 ml) are added sequentially and the reaction heated at 50° C. for 1.5 hours. After evaporation, the crude product is purified by flash chromatography (19:1 CH2Cl2:-methanol elultion,) and triturated with water to afford 8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-(3-hydroxy-propyl)-1-methyl-3,7-dihydro-purine-2,6-dione, [MH]+ 426.

reactant | 3-allyl-8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-1-methyl-3,7-dihydro-purine-2,6-dione hydrochloride salt | 1.87 mmol, 0.760 g | Cl.C(C=C)N1C(N(C(C=2NC(=NC12)CC1=CN=CC2=CC(=C(C=C12)OC)OC)=O)C)=O
reactant | Sodium hydroxide | 4M, 6 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 3 ml | OO | H2O2
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 8-(6,7-dimethoxy-isoquinolin-4-ylmethyl)-3-(3-hydroxy-propyl)-1-methyl-3,7-dihydro-purine-2,6-dione | COC=1C=C2C(=CN=CC2=CC1OC)CC1=NC=2N(C(N(C(C2N1)=O)C)=O)CCCO | C21H23N5O5
